US07378414B2
methyl 1-butyl-2-methoxy-1,4-dihydronaphthalene-1-carboxylate
To a stirred solution of methyl 2-methoxynaphthoate (3.25 g, 15 mmol) and tert-butyl alcohol (1.48 ml, 15 mmol) in tetrahydrofuran (10 mL) at −78° C. was added liquid ammonia (60 mL). Potassium metal (2.9 g, 75 mmol) was added in small pieces until the solution stayed dark blue for 30 min. Butyl iodide (5.47 mL, 48 mmol) was added dropwise (the blue coloration disappeared about half-way through addition) and stirring was continued for 1 hour at −78° C. The solution was allowed to warm to room temperature and purged with nitrogen to remove excess ammonia. To the resulting slurry a solution of saturated sodium bicarbonate (100 mL) was added, and the solution was extracted with ether (3×50 mL). The combined organic phases were washed with 10% Na2S2O3 (aq), dried (Na2SO4), and concentrated in vacuo. Column chromatography on silica (20% ethyl acetate/hexane) gave the title compound. This oil was trituated with hexane to afford a white solid (3.2 g, 77.6%). 1H NMR (300 MHz, CDCl3): δ ppm 0.63 (m, 1 H), 0.76 (t, J=7.35 Hz, 3 H), 0.99 (m, 1 H), 1.18 (m, 2 H), 2.04 (m, 1 H), 2.26 (m, 1 H), 3.55 (d, J=3.68 Hz, 2 H), 3.61 (s, 3 H), 3.63 (s, 3 H), 5.05 (t, J=3.68 Hz, 1 H), 7.16 (m, 4 H); MS (ESI) m/z 275.1 (M+H)+.

reactant | methyl 2-methoxynaphthoate | 15 mmol, 3.25 g | COC1=C(C2=CC=CC=C2C=C1)C(=O)OC | C13H12O3
reactant | tert-butyl alcohol | 15 mmol, 1.48 ml | C(C)(C)(C)O | C4H10O
reactant | ammonia | 60 mL | N | H3N
reactant | Potassium | 75 mmol, 2.9 g | [K] | K
reactant | Butyl iodide | 48 mmol, 5.47 mL | C(CCC)I | C4H9I
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | methyl 1-butyl-2-methoxy-1,4-dihydronaphthalene-1-carboxylate | C(CCC)C1(C(=CCC2=CC=CC=C12)OC)C(=O)OC | C17H22O3
